US06221865B1
[4-(3-hydroxypyrrolidinyl)-2-phenylbenzoyl]methionine methyl ester
A solution of 4-chloromethyl-2-phenylbenzoic acid methyl ester (0.521 g, 2.00 mmol), prepared as in Example 286A, 3-pyrrolidinol (0.178 g, 2.00 mmol), K2CO3 (0.553 g, 4.00 mmol), and Bu4NI (0.0754 g, 0.20 mmol) in CH3CN (5 mL) was stirred for 15 hours, treated with LiOH.H2O (0.506 g, 12.0 mmol), and then heated at reflux for 5 hours. The solution was cooled to ambient temperature and added to a mixture of L-methionine methyl ester hydrochloride (0.807 g, 4.00 mmol), 3-hydroxy-1,2,3-benzotriazin-4(3H)-one (1.66 g, 10.00 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (1.96 g, 10.00 mmol), and triethylamine hydrochloride (2.81 g, 20 mmol) in CH3CN (15 mL). After 12 days the mixture was concentrated under reduced pressure and the residue was dissolved in ethyl acetate. The solution was extracted with a 1:1 mixture of H2O and saturated aqueous NaHCO3 (4×) and brine. The organic phase was dried (MgSO4) and concentrated to provide a gold oil. Radial chromatography (12% methanol-ethyl acetate) afforded the desired compound (0.494 g, 56%).

reactant | 4-chloromethyl-2-phenylbenzoic acid methyl ester | 2.00 mmol, 0.521 g | COC(C1=C(C=C(C=C1)CCl)C1=CC=CC=C1)=O | C15H13ClO2
reactant | 3-pyrrolidinol | 2.00 mmol, 0.178 g | N1CC(CC1)O | C4H9NO
reactant | K2CO3 | 4.00 mmol, 0.553 g | C(=O)([O-])[O-].[K+].[K+]
reactant | LiOH.H2O | 12.0 mmol, 0.506 g | O[Li].O
reactant | L-methionine methyl ester hydrochloride | 4.00 mmol, 0.807 g | Cl.COC([C@@H](N)CCSC)=O
reactant | 3-hydroxy-1,2,3-benzotriazin-4(3H)-one | 10.00 mmol, 1.66 g | ON1N=NC2=C(C1=O)C=CC=C2 | C7H5N3O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 10.00 mmol, 1.96 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | triethylamine hydrochloride | 20 mmol, 2.81 g | Cl.C(C)N(CC)CC
catalyst | Bu4NI | 0.20 mmol, 0.0754 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | CH3CN | 15 mL | CC#N | C2H3N
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | [4-(3-hydroxypyrrolidinyl)-2-phenylbenzoyl]methionine methyl ester | 0.494 g, 56% | COC([C@@H](NC(C1=C(C=C(C=C1)N1CC(CC1)O)C1=CC=CC=C1)=O)CCSC)=O | C23H28N2O4S
